US07514470B2
A. 3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoic acid
A solution of methyl 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoate (0.056 g, 0.152 mmol) in 1:1 THF/MeOH (6 mL) was treated with NaOH (1N, 1 mL, 1.0 mmol) and heated at 75° C. for 30 min. Upon cooling, the mixture was partitioned between EtOAc and 0.1N HCl. The aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried (Na2SO4) and concentrated in vacuo to give the title compound (0.050 g, 94% yield): 1H NMR (400 MHz, CDCl3) δ 7.66 (d, J=8.8 Hz, 1H), 7.06 (d, J=2.6 Hz, 1H), 6.92 (dd, J=8.8, 2.6 Hz, 1H), 4.20-4.02 (m, 2H), 3.87 (dd, J=15.6, 9.0 Hz, 1H), 3.56 (dd, J=15.6, 5.0 Hz, 1H), 3.0-2.9 (m, 1H), 1.29 (d, J=7.1 Hz, 3H).

reactant | methyl 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoate | 0.152 mmol, 0.056 g | C(#N)C1=C(C=C(C=C1)N(CC(C(=O)OC)C)CC(F)(F)F)C(F)(F)F | C15H14F6N2O2
reactant | NaOH | 1.0 mmol, 1N, 1 mL | [OH-].[Na+]
solvent | THF MeOH | 6 mL | C1CCOC1.CO
product | 3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoic acid | 0.050 g, 94% yield | C(#N)C1=C(C=C(C=C1)N(CC(C(=O)O)C)CC(F)(F)F)C(F)(F)F | C14H12F6N2O2
